US07521447B2
To a solution of 5-bromoindazole (15 g, 76.1 mmol) and (bromomethyl)cyclopropane (8.12 mL, 83.7 mmol) in 75 mL of DMF, K2CO3 (16 g, 114.0 mmol) was added. The mixture was heated to 105° C. After 24 hours, starting material was still observed. Additional (bromomethyl)cyclopropane (5.7 mL, 57.0 mmol) was added and reaction was heated to 105° C. for an additional 24 hours. 5-Bromoindazole was again observed so additional (bromomethyl)cyclopropane was added (4 mL, 38 mmol) and the reaction was heated at 95° C. for an additional 48 hours. After disappearance of 5-bromoindazole, the reaction mixture was poured onto DCM/brine. The two layers were separated and the aqueous layer was extracted with DCM (2×) and checked by TLC. No product was observed in aqueous layer. The combined organics were washed with H2O (2×) and brine and dried over Na2SO4. After filtration, the filtrate was concentrated and the resulting residue was purified by chromatography with 9.5:0.5 hexane/EtOAc to provide 5-bromo-1-cyclopropylmethyl-1H-indazole (8.74 g, 45% isolated yield). 1H NMR (400 MHz CDCl3) δ 7.93 (s, 1H), 7.86 (d, J=1.57 Hz, 1H), 7.43 (dd, J=8.61, 1.57 Hz, 1H), 7.31 (d, J=8.61 Hz, 1H), 4.24 (d, J=6.26 Hz, 2H), 1.37-1.26 (m, 1H), 0.62-0.55 (m, 2H), 0.43-0.37 (m, 2H); MS (APCI+) m/z 251/253 (M/M+2H, 1:1) was detected.

reactant | 5-bromoindazole | 76.1 mmol, 15 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | (bromomethyl)cyclopropane | 83.7 mmol, 8.12 mL | BrCC1CC1 | C4H7Br
reactant | K2CO3 | 114.0 mmol, 16 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (bromomethyl)cyclopropane | 57.0 mmol, 5.7 mL | BrCC1CC1 | C4H7Br
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 5-bromo-1-cyclopropylmethyl-1H-indazole | 8.74 g, 45% | BrC=1C=C2C=NN(C2=CC1)CC1CC1 | C11H11BrN2
